data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[NH:1]1[CH:6]([C:24](=[O:8])[O-:22])[CH2:13][CH2:23][CH2:7]1.[cH:2]1[cH:3][cH:15][cH:5][c:9]2[c:4]1[N+:19]([CH3:11])=[CH:14][C:12]2=[CH:10][c:18]1[cH:16][cH:20][cH:25][cH:21][cH:17]1>>[NH+:1]1([CH:10]([c:12]2[c:9]3[c:4]([cH:2][cH:3][cH:15][cH:5]3)[n:19]([CH3:11])[cH:14]2)[c:18]2[cH:16][cH:20][cH:25][cH:21][cH:17]2)[CH:6]([C:24](=[O:8])[O-:22])[CH2:13][CH2:23][CH2:7]1", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Pi-/Pi+", [10, 12], [12, 14]], ["Pi-/LP+", [14, 19], [19]]]}
{"reaction_name": "Morita–Baylis–Hillman reaction", "rsmi": "[O:1]=[C:8]([C:3](=[CH2:6])[H:10])[O:7][CH3:2].[O:4]=[CH:9][CH3:5]>>[O:1]=[C:8]([C:3](=[CH2:6])[CH:9]([O:4][H:10])[CH3:5])[O:7][CH3:2]", "epd": [["LP-/Sigma+", [4], [4, 10]], ["Sigma-/LP+", [3, 10], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Pi-/LP+", [4, 9], [4]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]1=[CH:11][c:12]2[cH:18][cH:17][cH:29][cH:14][c:20]2[CH:30]1[Na:21].[O:2]=[C:25]1[N:6]([CH3:22])[C:24](=[O:8])[N:7]([CH3:23])[C:26](=[O:3])[C:15]1=[CH:19][c:9]1[cH:27][cH:4][c:16]([O:13][CH3:10])[cH:5][cH:28]1>>[CH:1]1=[CH:11][c:12]2[cH:18][cH:17][cH:29][cH:14][c:20]2[CH:30]1[CH:19]([c:9]1[cH:27][cH:4][c:16]([O:13][CH3:10])[cH:5][cH:28]1)[c:15]1[c:25]([O-:2])[n:6]([CH3:22])[c:24](=[O:8])[n:7]([CH3:23])[c:26]1=[O:3].[Na+:21]", "epd": [["Sigma-/Sigma+", [30, 21], [30, 19]], ["Pi-/Pi+", [19, 15], [15, 25]], ["Pi-/LP+", [25, 2], [2]]]}
{"reaction_name": "Phosphoramidate substitution", "rsmi": "[NH2:3][H:8].[O:1]([P:4](=[O:2])([Cl:6])[Cl:7])[CH3:5]>>[Cl:7][H:8].[O:1]([P:4](=[O:2])([NH2:3])[Cl:6])[CH3:5]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Pi-/LP+", [2, 4], [2]], ["LP-/Pi+", [2], [2, 4]], ["Sigma-/LP+", [4, 7], [7]], ["LP-/Sigma+", [7], [7, 8]], ["Sigma-/LP+", [3, 8], [3]]]}
{"reaction_name": "Tosylation", "rsmi": "[CH3:1][c:11]1[cH:4][cH:7][c:10]([S:3]([Cl:9])(=[O:12])=[O:13])[cH:8][cH:5]1.[O-:2][CH3:6]>>[CH3:1][c:11]1[cH:4][cH:7][c:10]([S:3]([O:2][CH3:6])(=[O:12])=[O:13])[cH:8][cH:5]1.[Cl-:9]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Pi-/LP+", [12, 3], [12]], ["LP-/Pi+", [12], [12, 3]], ["Sigma-/LP+", [3, 9], [9]]]}
{"reaction_name": "Vinylogous E1cb elimination", "rsmi": "[O-:2][CH3:6].[OH:1][CH:4]([CH:3]=[CH:5][C:8](=[O:7])[CH3:10])[CH2:9][H:11]>>[CH:3]([CH:4]=[CH2:9])=[CH:5][C:8](=[O:7])[CH3:10].[O:2]([CH3:6])[H:11].[OH-:1]", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Sigma-/Pi+", [9, 11], [4, 9]], ["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "Stobbe condensation", "rsmi": "[C:4]([CH2:5][C:9]([O:7][CH3:14])=[O:18])([C:8]([O:6][CH3:13])=[O:17])([H:19])[H:20].[O:1]=[CH:3][c:2]1[cH:15][cH:11][cH:10][cH:12][cH:16]1>>[O:1]([H:19])[H:20].[c:2]1([CH:3]=[C:4]([CH2:5][C:9]([O:7][CH3:14])=[O:18])[C:8]([O:6][CH3:13])=[O:17])[cH:15][cH:11][cH:10][cH:12][cH:16]1", "epd": [["Sigma-/LP+", [1, 3], [1]], ["Pi-/Sigma+", [1, 3], [1, 19]], ["Sigma-/LP+", [4, 19], [4]], ["LP-/Sigma+", [4], [3, 4]], ["Sigma-/Pi+", [4, 20], [3, 4]], ["LP-/Sigma+", [1], [1, 20]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]1(=[O:5])[N-:3][CH2:15][CH2:16][O:8]1.[cH:1]1[cH:4][cH:14][cH:7][c:9]2[c:6]1[N+:20]([CH3:11])=[CH:13][C:12]2=[CH:10][c:19]1[cH:17][cH:21][cH:23][cH:22][cH:18]1>>[cH:1]1[cH:4][cH:14][cH:7][c:9]2[c:6]1[n:20]([CH3:11])[cH:13][c:12]2[CH:10]([N:3]1[C:2](=[O:5])[O:8][CH2:16][CH2:15]1)[c:19]1[cH:17][cH:21][cH:23][cH:22][cH:18]1", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Pi-/Pi+", [10, 12], [12, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:2]1[cH:5][c:36]([B-:38]2([c:15]3[s:24][c:13]([CH3:28])[cH:17][cH:31]3)[O:8][c:39]3[cH:33][cH:35][cH:34][cH:32][c:40]3[O:9]2)[cH:6][cH:3][c:7]1[C:26]([F:20])([F:21])[F:22].[n:1]1[n:4][c:30]2[n:12]([cH:16][c:29]([N+:11](=[O:10])[O-:25])[cH:23][c:18]2[N+:19](=[O:14])[O-:37])[n:27]1>>[cH:2]1[cH:5][c:36](-[b-:38]2[o+:8][c:39]3[cH:33][cH:35][cH:34][cH:32][c:40]3[o:9]2)[cH:6][cH:3][c:7]1[C:26]([F:20])([F:21])[F:22].[n:1]1[n:4][c:30]2[n:12]([n:27]1)[CH:16]([c:15]1[s:24][c:13]([CH3:28])[cH:17][cH:31]1)[C:29](=[N+:11]([O-:10])[O-:25])[CH:23]=[C:18]2[N+:19](=[O:14])[O-:37]", "epd": [["LP-/Pi+", [8], [38, 8]], ["Sigma-/Sigma+", [15, 38], [15, 16]], ["Pi-/Pi+", [16, 29], [29, 11]], ["Pi-/LP+", [11, 10], [10]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:5][O:7][c:11]1[cH:29][cH:16][c:15]([CH:23]=[C:22]2[CH:24]=[C:12]([Br:20])[C:14](=[O:18])[C:13]([Br:21])=[CH:25]2)[cH:17][cH:30]1.[O-:1][C:19](=[CH:2][c:6]1[cH:9][cH:3][cH:27][cH:4][cH:10]1)[O:26][CH2:28][CH3:8]>>[O:1]=[C:19]([CH:2]([c:6]1[cH:9][cH:3][cH:27][cH:4][cH:10]1)[CH:23]([c:15]1[cH:16][cH:29][c:11]([O:7][CH3:5])[cH:30][cH:17]1)[c:22]1[cH:24][c:12]([Br:20])[c:14]([O-:18])[c:13]([Br:21])[cH:25]1)[O:26][CH2:28][CH3:8]", "epd": [["LP-/Pi+", [1], [19, 1]], ["Pi-/Sigma+", [2, 19], [2, 23]], ["Pi-/Pi+", [23, 22], [22, 24]], ["Pi-/Pi+", [24, 12], [12, 14]], ["Pi-/LP+", [14, 18], [18]]]}
